US07723331B2
a) 3-[(1,4-Dimethylpiperazin-2-yl)methoxy]benzonitrile
The title compound was synthesized according to Example 13a from (1,4-dimethylpiperazin-2-yl)methanol (0.500 g, 3.47 mmol), NaH (0.208 g, 5.20 mmol, 55% in oil) and 3-fluorobenzonitrile (0.441 g, 3.64 mmol) to give the title compound as an oil. Yield: 0.682 g (76%). 1H NMR (400 MHz, CDCl3) δ 7.32-7.38 (m, 1H), 7.20-7.25 (m, 1H), 7.10-7.15 (m, 2H), 3.95-4.06 (m, 2H), 2.77-2.86 (m, 2H), 2.65-2.72 (m, 1H), 2.51-2.58 (m, 1H), 2.37-2.44 (m, 1H), 2.36 (s, 3H), 2.28 (s, 3H), 2.19-2.27 (m, 1H), 2.09-2.17 (m, 1H).

reactant | (1,4-dimethylpiperazin-2-yl)methanol | 3.47 mmol, 0.500 g | CN1C(CN(CC1)C)CO | C7H16N2O
reactant | NaH | 5.20 mmol, 0.208 g | [H-].[Na+]
reactant | 3-fluorobenzonitrile | 3.64 mmol, 0.441 g | FC=1C=C(C#N)C=CC1 | C7H4FN
product | 3-[(1,4-Dimethylpiperazin-2-yl)methoxy]benzonitrile | CN1C(CN(CC1)C)COC=1C=C(C#N)C=CC1 | C14H19N3O
